* source E7009E_PROJECT
V_V1         VDD 0 25V
V_V2         0 VSS 25V
C_C1         0 VDD  100n  TC=0,0 
C_C2         VSS 0  100n  TC=0,0 
C_C3         0 VDD  220n  TC=0,0 
C_C4         VSS 0  220n  TC=0,0 
Q_Q1         N01416 N02010 N01098 BC556B 
Q_Q2         N01246 IN N01109 BC556B 
Q_Q3         N01250 N01514 N01122 BC556B 
R_R1         0 IN  47k TC=0,0 
R_R2         VSS N01254  68 TC=0,0 
R_R3         VSS N01258  68 TC=0,0 
R_R4         N01109 N01416  100 TC=0,0 
R_R5         N01122 N01416  100 TC=0,0 
R_R6         N01098 VDD  150 TC=0,0 
Q_Q5         N01246 N01250 N01254 BC546B 
Q_Q6         N01250 N01250 N01258 BC546B 
Q_Q8         0 N01246 N03081 BC546B 
R_R9         N01514 FB  33k TC=0,0 
R_R10         N22260 N01514  4.7k TC=0,0 
R_R12         N015691 N01514  330 TC=0,0 
C_C6         N015691 FB  15p  TC=0,0 
C_C7         0 N01784  220u  TC=0,0 
D_D1         0 N01784 D1N4148 
R_R13         N02010 N02019  2.2k TC=0,0 
R_R14         N03333 N02183  15 TC=0,0 
R_R15         N02197 N02183  1k TC=0,0 
R_R16         N36955 N02197  220 TC=0,0 
C_C8         N02167 N02183  4.7u  TC=0,0 
C_C9         N01246 N02167  2.2n  TC=0,0 
Q_Q9         N02167 N03081 VSS BC546B 
R_R18         VSS N03081  1k TC=0,0 
R_R20         N04179 VDD  100 TC=0,0 
R_R21         N04325 VDD  1k TC=0,0 
R_R22         N09369 N04325  100 TC=0,0 
R_R23         FB N04566  .22 TC=0,0 
R_R24         N04859 FB  .22 TC=0,0 
R_R25         N04677 N13768  100 TC=0,0 
R_R26         VSS N04677  1k TC=0,0 
L_L1         FB OUT  1u  
R_R29         FB OUT  10 TC=0,0 
R_R30         N054021 FB  10 TC=0,0 
C_C13         0 N054021  47n  TC=0,0 
R_R_Last         0 OUT  6.8 TC=0,0 
Q_Q15         N03333 N02197 N02167 QBD135/PLP 
Q_Q16         N04325 N02183 N29250 QBD135/PLP 
Q_Q17         N04677 N02167 N29305 QBD136/PLP 
M_M5         N04859 N13768 VSS VSS IRF530
M_M7         N04566 N09369 VDD VDD IRF9530
Q_Q18         N02183 N02019 N04179 BC556B 
Q_Q19         N02010 N16172 VDD BC556B 
R_R31         N16172 N01098  1k TC=0,0 
C_C14         N04566 N18218  100n  TC=0,0 
C_C15         VSS N18171  100n  TC=0,0 
R_R32         N18218 VDD  1k TC=0,0 
R_R33         N18171 N04859  1k TC=0,0 
R_R35         N22260 N01514  4.7k TC=0,0 
R_R36         N01784 N22260  400 TC=0,0 
C_C17         IN N00802  220n  TC=0,0 
R_R37         0 N24750  47k TC=0,0 
V_V4         N24750 0  
+PULSE 0 1.41 1m .1n .1n 1 2
V_V3         N00802 0  AC 1
+SIN 0 1.41 1k 0 0 0
R_R38         N02010 N30962  10k TC=0,0 
C_C19         N30962 VDD  4.7u  TC=0,0 
R_R39         0 N30962  10k TC=0,0 
R_R40         N04566 N29250  47 TC=0,0 
R_R41         N04859 N29305  47 TC=0,0 
R_R42         N29250 0  47 TC=0,0 
R_R43         0 N29305  47 TC=0,0 
R_R44         N02167 N36955  670 TC=0,0 
C_C20         N01246 N02167  470p  TC=0,0 
C_C21         IN N00802  100n  TC=0,0 
