* source E7009E_PROJECT
V_V1         VDD 0 25V
V_V2         0 VSS 25V
C_C1         0 VDD  100n  TC=0,0 
C_C2         VSS 0  100n  TC=0,0 
C_C3         0 VDD  220n  TC=0,0 
C_C4         VSS 0  220n  TC=0,0 
V_V3         N00802 0  AC 1
+SIN 0 1.41 1k 0 0 0
C_C5         IN N00802  100u  TC=0,0 
Q_Q1         N01416 N01104 N01098 BC556B 
Q_Q2         N01246 IN N01109 BC556B 
Q_Q3         N01250 N01514 N01122 BC556B 
R_R1         0 IN  47k TC=0,0 
R_R2         VSS N01254  68 TC=0,0 
R_R3         VSS N01258  68 TC=0,0 
R_R4         N01109 N01416  100 TC=0,0 
R_R5         N01122 N01416  100 TC=0,0 
R_R6         N01098 VDD  100 TC=0,0 
R_R7         N01080 N01104  10k TC=0,0 
R_R8         0 N01080  10k TC=0,0 
Q_Q5         N01246 N01250 N01254 BC546B 
Q_Q6         N01250 N01250 N01258 BC546B 
Q_Q8         0 N01246 N03081 BC546B 
R_R9         N01514 N01617  47k TC=0,0 
R_R10         N01652 N01514  6.8k TC=0,0 
R_R11         N01652 N01514  10k TC=0,0 
R_R12         N12250 N01514  330 TC=0,0 
C_C6         N12250 N01617  15p  TC=0,0 
C_C7         0 N01652  220u  TC=0,0 
D_D1         0 N01652 D1N4148 
R_R13         N01104 N02019  1k TC=0,0 
R_R14         N03333 N02054  15 TC=0,0 
R_R15         N02197 N02054  10k TC=0,0 
R_R16         N02201 N02197  220 TC=0,0 
R_R17         N02167 N02201 {1k*.75+.001}
C_C8         N02167 N02054  47u  TC=0,0 
C_C9         N01246 N02167  500p  TC=0,0 
Q_Q9         N02167 N03081 VSS BC546B 
R_R18         VSS N03081  1k TC=0,0 
C_C10         N01080 VDD  47u  TC=0,0 
R_R20         N04179 VDD  100 TC=0,0 
R_R21         N04325 VDD  1k TC=0,0 
R_R22         N09369 N04325  100 TC=0,0 
R_R23         N01617 N04380  .22 TC=0,0 
R_R24         N04859 N01617  .22 TC=0,0 
R_R25         N04677 N13768  100 TC=0,0 
R_R26         VSS N04677  1k TC=0,0 
R_R27         N04848 N04859  1k TC=0,0 
C_C11         VSS N04848  1n  TC=0,0 
C_C12         N05146 VDD  1n  TC=0,0 
R_R28         N04380 N05146  1k TC=0,0 
L_L1         N01617 OUT  1u  
R_R29         N01617 OUT  10 TC=0,0 
R_R30         N054021 N01617  10 TC=0,0 
C_C13         0 N054021  100n  TC=0,0 
R_R_Last         OUT 0  10 TC=0,0 
Q_Q15         N03333 N02197 N02167 QBD135/PLP 
Q_Q16         N04325 N02054 N04380 QBD135/PLP 
Q_Q17         N04677 N02167 N04859 QBD136/PLP 
D_D2         N09197 N01104 D1N4148 
D_D3         VDD N09197 D1N4148 
M_M5         N04859 N13768 VSS VSS IRF530
M_M7         N04380 N09369 VDD VDD IRF9530
Q_Q18         N02054 N02019 N04179 BC556B 
